US07345056B2
To a stirring mixture of 2,5-dihydrofuran (3.5 g, 49.9 mmol) in CH2Cl2/MeOH (10:1) at −78° C. was added NaHCO3 (3.5 g). An excess of ozone was bubbled into this mixture for 45 min. The resulting mixture was then purged with a stream of N2 for 10 min at −78° C. To this reaction mixture was added PPh3 (6.6 g, 25 mmol). The reaction mixture was slowly warmed up to room temperature over 48 h. The reaction mixture was filtered to remove solid NaHCO3 and then concentrated to half of its original volume under reduced pressure. To this crude mixture was added water (10 mL). Acetone-1,3-dicarboxylic acid (3.65 g, 25.0 mmol) and sodium acetate (2.2 g, 26.25 mmol) were added to the crude aldehyde in H2O. Benzylamine (2.68 g, 25.0 mmol) was dissolved in aqueous HCl (3 N, 16 mL) and was subsequently added to the stirring solution of the dialdehyde and the dicarboxylic acid over a 15 min period. The reaction mixture was stirred for 3 days at room temperature after which the pH was adjusted to 8 by the addition of potassium carbonate. The resulting solution was extracted with EtOAc (4×50 mL), the organic extracts dried (MgSO4), filtered, and concentrated under vacuum. The resulting residue was purified by silica gel chromatography to give 3.3 g of 9-benzyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one as a yellowish solid. Retention time (min)=0.352 and 0.243, Method [1], MS(ESI) 232.2 (M+H); 1H-NMR (300 MHz, CDCl3) δ 7.49-7.27 (m, 5H), 3.91 (s, 2H), 3.84 (d, J=10.44 Hz, 2H), 3.71 (d, J=10.44 Hz, 2H), 3.15 (d, J=5.5 Hz, 2H), 2.74 (dd, J=15.94, 6.05 Hz, 2H), 2.32 (d, J=15.4 Hz, 2H).

reactant | 2,5-dihydrofuran | 49.9 mmol, 3.5 g | O1CC=CC1 | C4H6O
reactant | NaHCO3 | 3.5 g | C(=O)(O)[O-].[Na+]
reactant | PPh3 | 25 mmol, 6.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Acetone-1,3-dicarboxylic acid | 25.0 mmol, 3.65 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium acetate | 26.25 mmol, 2.2 g | C(C)(=O)[O-].[Na+]
reactant | Benzylamine | 25.0 mmol, 2.68 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | H2O | O | H2O
solvent | HCl | 3 N, 16 mL | Cl | ClH
product | 9-benzyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one | 3.3 g | C(C1=CC=CC=C1)N1C2COCC1CC(C2)=O | C14H17NO2
